US04354027
8-Methoxy-5-methyl-1-propyl-4H-1,2,4-triazolo(4,3-a)quinoxalin-4-one
A mixture of 6-methoxy-1-methyl-3-(2'-butanoyldiazanyl)-1H-quinoxalin-2-one (10.9 g., 27.5 mmol) and phenol (27.3 g.) was heated at 180° for 3.5 hours and allowed to cool to room temperature. The mixture was diluted with 50 ml. of ether and the resulting solid collected by filtration and washed with ether. The material was recrystallized from acetonitrile, collected by filtration, and dried under high vacuum overnight to give 7.6 g. of 8-methoxy-5-methyl-1-propyl-4H-1,2,4-triazolo(4,3-a)quinoxalin-2-one, m.p. 219°-220°.

reactant | 6-methoxy-1-methyl-3-(2'-butanoyldiazanyl)-1H-quinoxalin-2-one | 27.5 mmol, 10.9 g | COC=1C=C2N=C(C(N(C2=CC1)C)=O)NNC(CCC)=O | C14H18N4O3
reactant | phenol | 27.3 g | C1(=CC=CC=C1)O | C6H6O
product | 8-Methoxy-5-methyl-1-propyl-4H-1,2,4-triazolo(4,3-a)quinoxalin-4-one | COC1=CC=C2N(C(C=3N(C2=C1)C(=NN3)CCC)=O)C | C14H16N4O2
